US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.05 g) was reacted with 1-[1-(methoxymethyl)cyclopropyl]methanamine monohydrochloride similar to as described in Example 2 to afford 11 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-[[1-(methoxymethyl)cyclopropyl]methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 471 (M)+. 1H NMR (400 MHz, DMSO) δ 11.34 (t, J=5.3 Hz, 1H), 8.60 (d, J=8.4 Hz, 1H), 8.38 (s, 1H), 7.90 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.48 (s, 1H), 5.09-4.88 (m, 2H), 4.67-4.44 (m, 2H), 3.25 (s, 4H), 1.49 (s, 5H), 0.63-0.30 (m, 4H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.05 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 1-[1-(methoxymethyl)cyclopropyl]methanamine monohydrochloride | Cl.COCC1(CC1)CN
product | 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-[[1-(methoxymethyl)cyclopropyl]methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 11 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NCC3(CC3)COC)C=C1C#CC(C)(C)O | C24H27FN4O5
